* Generated by Xic from cell multineurons 
.tran 0.01p 0.1n uic 
.plot tran v(19) v(17) v(18) 
.model jj02 jj(rtype=0, cct=1, vg=2.6m, delv=0.08m, icrit=45u, rn=40, cap=0.059p) 
B0 2 3 6 JJ02 area=1 
B1 5 0 7 JJ02 area=1 
I0 0 4 86u 
I1 0 2 pulse(0,40u,0p,0,0,2n,4n)
L0 3 4 0.2p
L1 4 5 8p
L2 2 0 8p
R0 2 3 10.9091
R1 5 0 10.9091
.save @I0[c] 
.save @I1[c] 
